US05804588
5-Bromo-8-methoxy-2-(3-pyridyl)quinoline
Bromine (200 μl) was added in a dropwise manner to a stirred and cooled (0°-5° C.) solution of 8-methoxy-2-(3-pyridyl)quinoline (780 mg) in methanol (30 ml) under a nitrogen atmosphere. The reaction mixture was stirred for 15 minutes then quenched by the addition of 5% aqueous sodium metabisulfite solution (7ml). The reaction mixture was evaporated in vacuo and the residue partitioned between 0.5N sodium hydroxide solution (65 ml) and dichloromethane (75 ml). The aqueous phase was reextracted with dichloromethane (2×75 ml) and the combined organic phases were dried (magnesium sulfate), filtered and evaporated in vacuo. Trituration with diethyl ether afforded the title compound (570 mg) as a pale brown solid.

reactant | Bromine | 200 μl | BrBr | Br2
reactant | 8-methoxy-2-(3-pyridyl)quinoline | 780 mg | COC=1C=CC=C2C=CC(=NC12)C=1C=NC=CC1 | C15H12N2O
solvent | methanol | 30 ml | CO | CH4O
product | 5-Bromo-8-methoxy-2-(3-pyridyl)quinoline | 570 mg | BrC1=C2C=CC(=NC2=C(C=C1)OC)C=1C=NC=CC1 | C15H11BrN2O
